US04920129
A mixture of 2-amino-3-(2-methyl-6-methoxycarbonylaminobenzylamino)pyridine (180 mg) and 3-mesyloxy-5-hexyn-2-one (120 mg) in methanol (0.36 ml) and chloroform (0.36 ml) was refluxed for 20 hours. After cooling, chloroform was added to the mixture and the resultant mixture was washed with an aqueous solution of sodium carbonate and water. The solvent was evaporated under reduced pressure and the residue was subjected to column chromatography on silica gel (4 g), eluting with chloroform to give an oily product. The residue was triturated with diethyl ether to give 8-(2-methyl-6-methoxycarbonylaminobenzylamino)-3-(2-propynyl)-2-methylimidazo[1,2-a]pyridine (127 mg).

reactant | 2-amino-3-(2-methyl-6-methoxycarbonylaminobenzylamino)pyridine | 180 mg | NC1=NC=CC=C1NCC1=C(C=CC=C1NC(=O)OC)C | C15H18N4O2
reactant | 3-mesyloxy-5-hexyn-2-one | 120 mg | S(=O)(=O)(C)OC(C(C)=O)CC#C | C7H10O4S
solvent | methanol | 0.36 ml | CO | CH4O
solvent | chloroform | 0.36 ml | C(Cl)(Cl)Cl | CHCl3
product | 8-(2-methyl-6-methoxycarbonylaminobenzylamino)-3-(2-propynyl)-2-methylimidazo[1,2-a]pyridine | 127 mg | CC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)CC#C)C(=CC=C1)NC(=O)OC | C21H22N4O2
